US07745641B2
7-Amino-4-vinylisoindolinone (50.0 mg, 0.287 mmol) was dissolved in DMF (2.5 mL), and the solution was added with 10% Pd—C (10 mg) followed by stirring at room temperature for 1.8 hours under normal pressure and hydrogen atmosphere. The reaction mixture was filtered using Celite and the solvent of the filtrate was evaporated under reduced pressure to obtain 7-amino-4-ethylisoindolinone (52.0 mg, quantitative).

reactant | 7-Amino-4-vinylisoindolinone | 0.287 mmol, 50.0 mg | NC=1C=CC(=C2CNC(C12)=O)C=C | C10H10N2O
reactant | hydrogen | [H][H] | H2
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
catalyst | Pd—C | 10 mg | [Pd] | Pd
product | 7-amino-4-ethylisoindolinone | 52.0 mg | NC=1C=CC(=C2CNC(C12)=O)CC | C10H12N2O
